* NGSPICE file created from Final_top_wrapper.ext - technology: sky130B

.subckt sky130_fd_pr__res_generic_po_4WEV9M a_n100_n595# a_n100_165#
X0 a_n100_165# a_n100_n595# sky130_fd_pr__res_generic_po w=1 l=1.65
.ends

.subckt sky130_fd_pr__res_generic_po_4LLJEK a_n100_1320# a_n100_n1750#
X0 a_n100_1320# a_n100_n1750# sky130_fd_pr__res_generic_po w=1 l=13.2
.ends

.subckt vDivider_02 VCC Y VSS
XR1 Y VSS sky130_fd_pr__res_generic_po_4WEV9M
XR3 VCC Y sky130_fd_pr__res_generic_po_4LLJEK
.ends

.subckt sky130_fd_pr_reram__reram_cell_X TE BE
X0 TE BE sky130_fd_pr_reram__reram_cell area_ox=1
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_9YEQ2B a_50_n700# a_n242_n922# a_n108_n700# a_n50_n788#
X0 a_50_n700# a_n50_n788# a_n108_n700# a_n242_n922# sky130_fd_pr__nfet_g5v0d10v5 ad=2.03 pd=14.58 as=2.03 ps=14.58 w=7 l=0.5
.ends

.subckt x1T1R BL WL SL VSS
XXR1 BL XR1/BE sky130_fd_pr_reram__reram_cell_X
XXM1 XR1/BE VSS SL WL sky130_fd_pr__nfet_g5v0d10v5_9YEQ2B
.ends

.subckt x2x2crossbar BL2 WL2 WL1 BL1 VSS SL2 SL1
Xx1 BL1 WL1 SL1 VSS x1T1R
Xx2 BL2 WL1 SL2 VSS x1T1R
Xx3 BL1 WL2 SL1 VSS x1T1R
Xx4 BL2 WL2 SL2 VSS x1T1R
.ends

.subckt x4x4crossbar BL1 BL2 BL3 BL4 WL1 WL2 WL3 WL4 SL1 SL2 SL3 SL4 VSS
Xx1 BL2 WL2 WL1 BL1 VSS SL2 SL1 x2x2crossbar
Xx2 BL2 WL4 WL3 BL1 VSS SL2 SL1 x2x2crossbar
Xx3 BL4 WL2 WL1 BL3 VSS SL4 SL3 x2x2crossbar
Xx4 BL4 WL4 WL3 BL3 VSS SL4 SL3 x2x2crossbar
.ends

.subckt sky130_fd_pr__res_generic_po_NSB5VY a_n100_n2930# a_n100_2500#
X0 a_n100_2500# a_n100_n2930# sky130_fd_pr__res_generic_po w=1 l=25
.ends

.subckt sky130_fd_pr__res_generic_po_FHUZEF a_n100_n1230# a_n100_800#
X0 a_n100_800# a_n100_n1230# sky130_fd_pr__res_generic_po w=1 l=8
.ends

.subckt vDivider_25 VCC Y VSS
XR1 Y VSS sky130_fd_pr__res_generic_po_NSB5VY
XR3 Y VCC sky130_fd_pr__res_generic_po_FHUZEF
.ends

.subckt sky130_fd_pr__res_generic_po_55P4HT a_n100_n2080# a_n100_1650#
X0 a_n100_1650# a_n100_n2080# sky130_fd_pr__res_generic_po w=1 l=16.5
.ends

.subckt sky130_fd_pr__res_generic_po_882S6N a_n100_n595# a_n100_165#
X0 a_n100_165# a_n100_n595# sky130_fd_pr__res_generic_po w=1 l=1.65
.ends

.subckt vDivider_3 VCC Y VSS
Xsky130_fd_pr__res_generic_po_55P4HT_0 Y VSS sky130_fd_pr__res_generic_po_55P4HT
Xsky130_fd_pr__res_generic_po_882S6N_0 Y VCC sky130_fd_pr__res_generic_po_882S6N
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_6XHARQ a_n108_n75# a_n50_n163# a_n242_n297# a_50_n75#
X0 a_50_n75# a_n50_n163# a_n108_n75# a_n242_n297# sky130_fd_pr__nfet_g5v0d10v5 ad=0.2175 pd=2.08 as=0.2175 ps=2.08 w=0.75 l=0.5
.ends

.subckt sky130_fd_pr__pfet_g5v0d10v5_7EBZY6 a_50_n150# a_n50_n247# a_n108_n150# w_n308_n447#
X0 a_50_n150# a_n50_n247# a_n108_n150# w_n308_n447# sky130_fd_pr__pfet_g5v0d10v5 ad=0.435 pd=3.58 as=0.435 ps=3.58 w=1.5 l=0.5
.ends

.subckt Inverter VDD Vin Vout VSS
XXM1 VSS Vin VSS Vout sky130_fd_pr__nfet_g5v0d10v5_6XHARQ
XXM2 Vout Vin VDD VDD sky130_fd_pr__pfet_g5v0d10v5_7EBZY6
.ends

.subckt Buffer Vout Vin VDD VSS
Xx1 VDD Vin x2/Vin VSS Inverter
Xx2 VDD x2/Vin Vout VSS Inverter
.ends

.subckt TransmissionGate SP VDD Out In VSS SN
XXM1 In SN VSS Out sky130_fd_pr__nfet_g5v0d10v5_6XHARQ
XXM2 Out SP In VDD sky130_fd_pr__pfet_g5v0d10v5_7EBZY6
.ends

.subckt x2-1MUX S A B OUT VDD VSS
Xx1 x2/SN VDD OUT A VSS S TransmissionGate
Xx2 S VDD OUT B VSS x2/SN TransmissionGate
Xx3 VDD S x2/SN VSS Inverter
.ends

.subckt x4LineWordInput VDD WL_IN1 WL_LA_IN2 WL_LA_IN3 Write_Select WL_IN2 Form_Voltage
+ WL_LA_IN1 Write_Voltage WL_LA_IN4 WL_IN3 WL_IN4 VSS
Xx1 WL_IN1 WL_LA_IN1 x9/OUT VSS Buffer
Xx2 WL_IN2 WL_LA_IN2 x9/OUT VSS Buffer
Xx3 WL_IN3 WL_LA_IN3 x9/OUT VSS Buffer
Xx4 WL_IN4 WL_LA_IN4 x9/OUT VSS Buffer
Xx9 Write_Select Write_Voltage Form_Voltage x9/OUT VDD VSS x2-1MUX
.ends

.subckt x1LineBitInput VDD MAC_Read BL_LA_IN Write_Form_select VDD_MUX BL_IN VSS
Xx2 Write_Form_select x2/A MAC_Read BL_IN VDD VSS x2-1MUX
Xx3 x2/A BL_LA_IN VDD_MUX VSS Buffer
.ends

.subckt x4LineBitInput VDD v3 BL_LA_IN1 Write_Form_Select v02 BL_IN1 BL_LA_IN2 BL_IN2
+ BL_LA_IN3 BL_LA_IN4 Write_Select v25 BL_IN3 BL_IN4 VSS
Xx1 VDD v02 BL_LA_IN1 Write_Form_Select x9/OUT BL_IN1 VSS x1LineBitInput
Xx2 VDD v02 BL_LA_IN2 Write_Form_Select x9/OUT BL_IN2 VSS x1LineBitInput
Xx3 VDD v02 BL_LA_IN3 Write_Form_Select x9/OUT BL_IN3 VSS x1LineBitInput
Xx4 VDD v02 BL_LA_IN4 Write_Form_Select x9/OUT BL_IN4 VSS x1LineBitInput
Xx9 Write_Select v25 v3 x9/OUT VDD VSS x2-1MUX
.ends

.subckt Final_top_wrapper vccd2_pin vdda2_pin Write_select_in BL_LA_IN1 BL_LA_IN2
+ BL_LA_IN3 BL_LA_IN4 WL_LA_IN1 WL_LA_IN2 WL_LA_IN3 WL_LA_IN4 SL1_out SL3_out SL4_out
+ Write_form_select_in SL2_out vssa2_pin vssd2_pin
XvDivider_02_0 vccd2_pin vDivider_02_0/Y vssd2_pin vDivider_02
X4x4crossbar_0 4x4crossbar_0/BL1 4x4crossbar_0/BL2 4x4crossbar_0/BL3 4x4crossbar_0/BL4
+ 4x4crossbar_0/WL1 4x4crossbar_0/WL2 4x4crossbar_0/WL3 4x4crossbar_0/WL4 SL1_out
+ SL2_out SL3_out SL4_out vssa2_pin x4x4crossbar
XvDivider_25_0 vdda2_pin vDivider_25_0/Y vssa2_pin vDivider_25
XvDivider_3_0 vdda2_pin vDivider_3_0/Y vssa2_pin vDivider_3
X4LineWordInput_0 vdda2_pin 4x4crossbar_0/WL1 WL_LA_IN2 WL_LA_IN3 Write_select_in
+ 4x4crossbar_0/WL2 vDivider_25_0/Y WL_LA_IN1 vDivider_25_0/Y WL_LA_IN4 4x4crossbar_0/WL3
+ 4x4crossbar_0/WL4 vssa2_pin x4LineWordInput
X4LineBitInput_0 vdda2_pin vDivider_3_0/Y BL_LA_IN1 Write_form_select_in vDivider_02_0/Y
+ 4x4crossbar_0/BL1 BL_LA_IN2 4x4crossbar_0/BL2 BL_LA_IN3 BL_LA_IN4 Write_select_in
+ vDivider_25_0/Y 4x4crossbar_0/BL3 4x4crossbar_0/BL4 vssa2_pin x4LineBitInput
.ends

